US04650791
3-Octadecyloxy-2-amino-1-trityloxypropane
In 50 ml of isopropylalcohol was dissolved 6.4 g of 3-octadecyloxy-2-phthalimido-1-trityloxypropane, and 4 ml of hydrazine hydrate was added to the solution. The mixture was heated at 70° C. for 1 hour, and concentrated under reduced pressure. Ethyl acetate was added to the residue and the insoluble matter was filtered off. The filtrate was concentrated to dryness and purified by silica gel chromatography (eluent: n-hexane-ethyl acetate=3:1) to give 4.41 g (84%) of the desired compound as a pale brown solid.

reactant | 3-octadecyloxy-2-phthalimido-1-trityloxypropane | 6.4 g | C(CCCCCCCCCCCCCCCCC)OCC(COC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)N1C(C=2C(C1=O)=CC=CC2)=O | C48H61NO4
reactant | hydrazine hydrate | 4 ml | O.NN
solvent | isopropylalcohol | 50 ml | C(C)(C)O | C3H8O
product | 3-Octadecyloxy-2-amino-1-trityloxypropane | 4.41 g, 84% | C(CCCCCCCCCCCCCCCCC)OCC(COC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)N | C40H59NO2
